US05574055
A mixture of 16.8 g of ethyl pyridin-3-yl-carbamate, 20 g of 4-methoxymethyl-1,3-dioxolan-2-one and 2.8 g of potassium carbonate was heated to 160° for 3 h. The mixture was cooled and treated with ethyl acetate and water. The phases were separated, the aqueous phase was extracted with ethyl acetate and the organic phase was washed with saturated sodium chloride solution. The organic phases were combined, dried with magnesium sulfate and concentrated. Chromatography of the residue (21 g) on silica gel with ethyl acetate/methanol mixtures (1:0-20:1) yielded 17.6 g of (RS)-5-methoxymethyl-3-pyridin-3-yl-oxazolidin-2-one which was recrystallized from diethyl ether. M.p.: 65°-66°.

reactant | ethyl pyridin-3-yl-carbamate | 16.8 g | N1=CC(=CC=C1)NC(OCC)=O | C8H10N2O2
reactant | 4-methoxymethyl-1,3-dioxolan-2-one | 20 g | COCC1OC(OC1)=O | C5H8O4
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (RS)-5-methoxymethyl-3-pyridin-3-yl-oxazolidin-2-one | 17.6 g | COCC1CN(C(O1)=O)C=1C=NC=CC1 | C10H12N2O3
